US05958944
Potassium carbonate (40 mg) and ethyl bromide (56 mg) were added to a solution of N-(4-pyridyl)-4-tert-butoxycarbonylaminomethyl-2-hydroxybenzamide (100 mg) in dimethylformamide (10 ml), and the mixture was stirred at room temperature for 4 hours. After the reaction, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with water, dried, and concentrated under reduced pressure. The obtained crystals were recrystallized form ethyl acetate-hexane to give 60 mg of N-(4-pyridyl)-4-tert-butoxycarbonylaminomethyl-2-ethoxybenzamide.

reactant | Potassium carbonate | 40 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromide | 56 mg | C(C)Br | C2H5Br
reactant | N-(4-pyridyl)-4-tert-butoxycarbonylaminomethyl-2-hydroxybenzamide | 100 mg | N1=CC=C(C=C1)NC(C1=C(C=C(C=C1)CNC(=O)OC(C)(C)C)O)=O | C18H21N3O4
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(4-pyridyl)-4-tert-butoxycarbonylaminomethyl-2-ethoxybenzamide | 60 mg | N1=CC=C(C=C1)NC(C1=C(C=C(C=C1)CNC(=O)OC(C)(C)C)OCC)=O | C20H25N3O4
